US06057369
4-(S)-Benzyl-3-propionyl-2-oxazolidinone (8.4 g, 36 mmol) is dissolved in CH2Cl2 (60 mL), cooled in an ice bath and to this is added 1 M dibutyl boron triflate in CH2Cl2 (40 mL, 40 mmol) over 5 minutes. Then triethylamine (6.3 mL, 45 mmol) is added dropwise at a rate that kept the reaction temperature <3° C. The ice bath is then replaced by dry-ice/acetone and 5-phenylpentanal (7.8 g, 48 mmol) in CH2Cl2 (20 mL) is added over 5 minutes. This mixture is stirred 20 minutes at -78° C. and then for 1 hour at 0° C. The reaction is quenched by the addition of pH 7 phosphate buffer (40 mL), followed by MeOH (120 mL). Then a mixture of MeOH (80 mL) and 30% hydrogen peroxide (40 mL) is added at a rate that kept the reaction temperature <10° C. The reaction is stirred 1 hour and then concentrated in vacuo (bath temperature <30° C.). The residue is extracted into ether (3×200 mL) and the combined ether layers are washed with NaHCO3 (200 mL), brine (200 mL) and dried over MgSO4 and then concentrated in vacuo. The crude product is purified by column chromatography (silica, 10% petroleum ether in CH2Cl2 then a second purification using 45% ether in petroleum ether) to yield 4-(S)-benzyl-3-(3-(R)-hydroxy-2-(S)-methyl-7-phenylheptanoyl)oxazolidin-2-one (9.8 g, 70%): 1H NMR (300 MHz, CDCl3) δ 7.37-7.14 (m, 10H), 4.73-4.65 (m,1H), 4.24-4.15 (m, 2H), 3.96-3.91 (m, 1H), 3.79-3.71 (m, 1H), 3.27-3.21 (dd, J=13.4, 3.3 Hz, 1H), 2.88 (d, J=3.0 Hz, 1H), 2.78 (dd, J=13.3, 9.5 Hz, 1H), 2.62 (t, J=7.5 Hz, 2H), 1.70-1.34 (m, 6H), 1.25 (d, J=6.8 Hz, 3H).

reactant | 4-(S)-Benzyl-3-propionyl-2-oxazolidinone | 36 mmol, 8.4 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC)=O | C13H15NO3
reactant | dibutyl boron triflate | 1 M | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | triethylamine | 45 mmol, 6.3 mL | C(C)N(CC)CC | C6H15N
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | 5-phenylpentanal | 48 mmol, 7.8 g | C1(=CC=CC=C1)CCCCC=O | C11H14O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mmol, 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(S)-benzyl-3-(3-(R)-hydroxy-2-(S)-methyl-7-phenylheptanoyl)oxazolidin-2-one | 9.8 g, 70% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](CCCCC1=CC=CC=C1)O)C)=O | C24H29NO4
